US08207146B2
(E)-2-(5,5-dioxo-5,10-dihydrophenothiazin-2-yl)-N-(1-methyl-1H-pyrazol-3-yl)-3-(4-oxocyclohexyl)acrylamide
276 mg of (E)-2-(5,5-dioxo-5,10-dihydrophenothiazin-2-yl)-3-(4-oxocyclohexyl)acrylic acid, 101 mg of commercial 1-methyl-1H-pyrazol-3-ylamine and 0.61 ml of N,N-diisopropylethylamine are dissolved in 10 ml of dimethylformamide. 318 mg of HATU and 114 mg of HOAT are added, and the mixture stirred at room temperature for two hours. The reaction mixture is then diluted by addition of 100 ml of ethyl acetate and washed five times with in each case 30 ml of water. The organic phase is dried over MgSO4, and the solvent is then removed under reduced pressure. The residue is purified on silica gel using the mobile phase n-heptane (100%)=>:ethyl acetate (100%). This gives 134 mg of (E)-2-(5,5-dioxo-5,10-dihydrophenothiazin-2-yl)-N-(1-methyl-1H-pyrazol-3-yl)-3-(4-oxocyclohexyl)acrylamide.

reactant | (E)-2-(5,5-dioxo-5,10-dihydrophenothiazin-2-yl)-3-(4-oxocyclohexyl)acrylic acid | 276 mg | O=S1(C=2C=CC(=CC2NC2=CC=CC=C12)/C(/C(=O)O)=C\C1CCC(CC1)=O)=O | C21H19NO5S
reactant | 1-methyl-1H-pyrazol-3-ylamine | 101 mg | CN1N=C(C=C1)N | C4H7N3
reactant | N,N-diisopropylethylamine | 0.61 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | HATU | 318 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HOAT | 114 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | (E)-2-(5,5-dioxo-5,10-dihydrophenothiazin-2-yl)-N-(1-methyl-1H-pyrazol-3-yl)-3-(4-oxocyclohexyl)acrylamide | O=S1(C=2C=CC(=CC2NC2=CC=CC=C12)/C(/C(=O)NC1=NN(C=C1)C)=C\C1CCC(CC1)=O)=O | C25H24N4O4S
